### PR TITLE
[Merged by Bors] - feat(LocallyConvex/Bounded): add `IsVonNBounded.add` etc

### PR DESCRIPTION
**Pull request by urkud**
* add `IsVonNBounded.add`, `IsVonNBounded.vadd`,
  and `isVonNBounded_vadd`;
* generalize some lemmas in `Topology/Algebra/Monoid`
  from `Monoid` to `MulOneClass`,
  move them to a new section.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 1]
```diff
@@ -206,6 +218,16 @@ theorem isVonNBounded_singleton (x : E) : IsVonNBounded 𝕜 ({x} : Set E) := fu
   (absorbent_nhds_zero hV).absorbs
 #align bornology.is_vonN_bounded_singleton Bornology.isVonNBounded_singleton
 
+protected theorem IsVonNBounded.vadd [ContinuousAdd E] {s : Set E}
+    (hs : IsVonNBounded 𝕜 s) (x : E) : IsVonNBounded 𝕜 (x +ᵥ s) := by
+  rw [← singleton_vadd]
+  exact IsVonNBounded.add (isVonNBounded_singleton x) hs
```
Comment (YaelDillies) [inline Mathlib/Analysis/LocallyConvex/Bounded.lean:224]:
```suggestion
  exact (isVonNBounded_singleton x).add hs
```

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 2]
```diff
@@ -402,6 +402,39 @@ instance Submonoid.continuousMul [TopologicalSpace M] [Monoid M] [ContinuousMul
...
+@[to_additive exists_nhds_zero_half]
+theorem exists_nhds_one_split {s : Set M} (hs : s ∈ 𝓝 (1 : M)) :
+    ∃ V ∈ 𝓝 (1 : M), ∀ v ∈ V, ∀ w ∈ V, v * w ∈ s :=
+  let ⟨V, Vo, V1, hV⟩ := exists_open_nhds_one_split hs
+  ⟨V, IsOpen.mem_nhds Vo V1, hV⟩
+#align exists_nhds_one_split exists_nhds_one_split
+#align exists_nhds_zero_half exists_nhds_zero_half
+
+/-- Given a neighborhood `U` of `1` there is an open neighborhood `V` of `1`
+such that `VV ⊆ U`. -/
```
Comment (YaelDillies) [inline Mathlib/Topology/Algebra/Monoid.lean:427]: I'm hazarding that this is more readable:
```suggestion
such that `V * V ⊆ U`. -/
```

File: Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 3]
```diff
@@ -100,6 +100,18 @@ theorem IsVonNBounded.union {s₁ s₂ : Set E} (hs₁ : IsVonNBounded 𝕜 s₁
 
 end Zero
 
+section ContinuousAdd
+
+variable [SeminormedRing 𝕜] [AddZeroClass E] [TopologicalSpace E] [ContinuousAdd E]
+  [DistribSMul 𝕜 E] {s t : Set E}
+
+protected theorem IsVonNBounded.add (hs : IsVonNBounded 𝕜 s) (ht : IsVonNBounded 𝕜 t) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/LocallyConvex/Bounded.lean:108]: Can we have `IsVonNBounded.sub`, `IsVonNBounded.neg`, `IsVonNBounded.smul` (or at least `IsVonNBounded.nsmul`, `IsVonNBounded.zsmul` if you can't get the general statement)?

File: Mathlib/Analysis/LocallyConvex/Bounded.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:224]: AFAIR, this fails for a reason I fail to understand.

Comment (YaelDillies) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:224]: Hmm, mind leaving a todo asking to fix it?

File: Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 4]
```diff
@@ -102,6 +102,38 @@ theorem IsVonNBounded.union {s₁ s₂ : Set E} (hs₁ : IsVonNBounded 𝕜 s₁
...
+    IsVonNBounded 𝕜 (s + t) := fun U hU ↦ by
```
Comment (YaelDillies) [inline Mathlib/Analysis/LocallyConvex/Bounded.lean:111]: Is the iff not true? ie
```suggestion
lemma isVonNBounded_add : IsVonNBounded 𝕜 (s + t) ↔ IsVonNBounded 𝕜 s ∧ IsVonNBounded 𝕜 t := sorry
```

Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:111]: Not true if `s` is empty and `t` is unbounded.

Comment (YaelDillies) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:111]: Sorry, I meant to ask the version where both `s` and `t` are nonempty

File: Mathlib/Analysis/LocallyConvex/Bounded.lean [hunk 5]
```diff
@@ -240,17 +242,67 @@ theorem isVonNBounded_singleton (x : E) : IsVonNBounded 𝕜 ({x} : Set E) := fu
...
   -- TODO: dot notation timeouts in the next line
   exact IsVonNBounded.add (isVonNBounded_singleton x) hs
 
 @[simp]
-theorem isVonNBounded_vadd [ContinuousAdd E] {s : Set E} (x : E) :
-    IsVonNBounded 𝕜 (x +ᵥ s) ↔ IsVonNBounded 𝕜 s :=
+theorem isVonNBounded_vadd (x : E) : IsVonNBounded 𝕜 (x +ᵥ s) ↔ IsVonNBounded 𝕜 s :=
   ⟨fun h ↦ by simpa using h.vadd (-x), fun h ↦ h.vadd x⟩
 
+theorem IsVonNBounded.right_of_add (hst : IsVonNBounded 𝕜 (s + t)) (hs : s.Nonempty) :
```
Comment (YaelDillies) [inline Mathlib/Analysis/LocallyConvex/Bounded.lean:259]:
```suggestion
theorem IsVonNBounded.of_add_right (hst : IsVonNBounded 𝕜 (s + t)) (hs : s.Nonempty) :
```

Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:259]: With `of_add_right`, it's not clear (for me) whether it's "of adding something on the right" (so this one should be `of_add_left`, see `Int.ModEq.of_mul_left`) or "of add, version for right term".

Comment (YaelDillies) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:259]: That's fine, because both interpretations mean the same thing. We already used this pattern in other places.

Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:259]: Should this lemma be `of_add_left` or `of_add_right`?

Comment (urkud) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean:259]: I also used `left_of_*` in, e.g., `left_ne_zero_of_mul`. I don't care about this case (e.g., feel free to push a change to this PR) but we should choose one style some day. For now, for all lemmas ending with `left`/`right`, I try both every time.

**Review by YaelDillies — APPROVED** [review]
I renamed the lemmas so that they match `Set.Nonempty.of_add_left`/`Set.Nonempty.of_add_right`.

maintainer merge

File: Mathlib/Analysis/LocallyConvex/Bounded.lean (hunk 5 above)
Comment (YaelDillies) [reply Mathlib/Analysis/LocallyConvex/Bounded.lean]: The difference between `left_ne_zero_of_mul` and here is that we have access to dot notation here, which means that we flush the `left`/`right` to the end of the lemma name.

**Comment by sgouezel** [comment]
bors r+
Thanks!
